US05288742
In an analogous procedure to that described in Example 1, 2-bromomethylnaphthalene was reacted with ethyl 3-hydroxybenzoate to give ethyl 3-(naphth-2-ylmethoxy)benzoate in 85% yield, m.p. 45°-46.5° C.

reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | ethyl 3-hydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
product | ethyl 3-(naphth-2-ylmethoxy)benzoate | 85% yield | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)OCC)C=CC1 | C20H18O3
